US04673746
A solution of 3.6 g of ethyl-2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}butyrate, 30 ml of 15% sodium hydroxide solution and 30 ml of methanol, is stirred under reflux for 3 hr. The methanol is evaporated and the solution is poured into dilute hydrochloric acid/ice affording a flocculant precipitate. The precipitate is collected, dried in vacuo and recrystallized from toluene to afford 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}butyric acid, mp 144° C.

reactant | ethyl-2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}butyrate | 3.6 g | C(C)OC(C(CC)OC1=CC2=C(C(=NO2)C2=CC=C(C=C2)Cl)C=C1)=O | C19H18ClNO4
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-{[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]oxy}butyric acid | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)OC(C(=O)O)CC | C17H14ClNO4
